US06388088B1
A solution of 3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionic acid (368 mg, 1.0 mmol) in fluorobenzene (1.5 mL) and NN-dimethylfornamide (6 μL) at 25° C. was treated dropwise with oxalyl chloride (107.7 μL, 1.21 mmol) over 2-3 min. The clear solution was stirred for 1 h at 25° C. and then treated with methyl urea (322 mg, 2.0 mmol). The resulting suspension was heated at 70° C. (bath temperature) for 10 min and then treated with pyridine (162 μL, 2.0 mmol). The reaction mixture was then stirred at 70° C. for 20 h. The reaction mixture was then cooled to 25° C. and diluted with ethyl acetate (30 mL) and a 3N aqueous hydrochloric acid solution (30 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×20 mL). The combined organic extracts were successively washed with a saturated aqueous sodium bicarbonate solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 1/1 to 1/2 hexanes/ethyl acetate) afforded 1-{3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionyl}-3-methyl-urea (338 mg, 80%) as an amorphous white solid: EI-HRMS m/e calcd for C19H23F3N6O2 (M+) 424.1834, found 424.1833.

reactant | 3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionic acid | 1.0 mmol, 368 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)N1N=NN=C1C)C(F)(F)F | C17H19F3N4O2
reactant | oxalyl chloride | 1.21 mmol, 107.7 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl urea | 2.0 mmol, 322 mg | CNC(=O)N | C2H6N2O
reactant | pyridine | 2.0 mmol, 162 μL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 3N, 30 mL | Cl | ClH
solvent | fluorobenzene | 1.5 mL | FC1=CC=CC=C1 | C6H5F
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-{3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionyl}-3-methyl-urea | 338 mg, 80% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC(=C(C=C1)N1N=NN=C1C)C(F)(F)F | C19H23F3N6O2
